US04228085
Examples 1 and 2 illustrate the production of phenyl alpha, beta-epoxy-beta-(3-trifluoromethylphenyl)ethyl ketone. Examples 3, 4 and 5 illustrate the use of phenyl alpha,beta-epoxy-beta-(3-trifluoromethylphenyl)ethyl ketone to produce 1-phenyl-3-(3-trifluoromethylphenyl)-2-propanone.

reactant | beta-epoxy-beta-(3-trifluoromethylphenyl)ethyl ketone | O1C(C1C(=O)C1C(O1)C1=CC(=CC=C1)C(F)(F)F)C1=CC(=CC=C1)C(F)(F)F | C19H12F6O3
reactant | phenyl alpha,beta-epoxy-beta-(3-trifluoromethylphenyl)ethyl ketone | O1C(C1C1=CC(=CC=C1)C(F)(F)F)C(=O)C1=CC=CC=C1 | C16H11F3O2
product | 1-phenyl-3-(3-trifluoromethylphenyl)-2-propanone | C1(=CC=CC=C1)CC(CC1=CC(=CC=C1)C(F)(F)F)=O | C16H13F3O
